US08685973B2
4,4,5,5-Tetramethyl-2-(4-phenyl cyclohex-1-enyl)-[1,3,2]dioxaborolane.
A mixture of trifluoro-methanesulfonic acid 4-phenyl-cyclohex-1-enyl ester (5.8 g), bis(pinacolato)diboron (5.3 g), potassium acetate (5.58 g) and [1,1′-bis(diphenylphosphine)ferrocene]dichloropalladium(II) (0.77 g) in 1,4-dioxane (150 mL) was degassed then heated to 80° C. for 2 hours. The reaction mixture was filtered and the resulting filtrate concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel, eluting with a mixture of diethyl ether and cyclohexane (0:1 to 1:20 by volume) to afford the title compound (4.0 g). 1H NMR (CDCl3): δ 7.30-7.28 (2H, m), 7.24-7.15 (3H, m), 6.65-6.64 (1H, m), 2.82-2.71 (1H, m), 2.40-2.36 (2H, m), 2.23-2.22 (2H, m), 1.95-1.94 (1H, m), 1.70-1.68 (1H, m), 1.43 (3H, s), 1.28 (9H, s).

reactant | trifluoro-methanesulfonic acid 4-phenyl-cyclohex-1-enyl ester | 5.8 g | C1(=CC=CC=C1)C1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C13H13F3O3S
reactant | bis(pinacolato)diboron | 5.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.58 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 4,4,5,5-Tetramethyl-2-(4-phenyl cyclohex-1-enyl)-[1,3,2]dioxaborolane | 4.0 g | CC1(OB(OC1(C)C)C1=CCC(CC1)C1=CC=CC=C1)C | C18H25BO2
